US04284642
2-Chloro-6-methyl-aniline is reacted with 1,2-epoxypropane as described in Example 3, Method (b), point (a) to obtain N-(β-hydroxypropyl)-2-chloro-6-methyl-aniline with a yield of 30.1%; b.p.: 118°-122° C./0.2 mm Hg.

reactant | 2-Chloro-6-methyl-aniline | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 1,2-epoxypropane | O1CC1C | C3H6O
product | N-(β-hydroxypropyl)-2-chloro-6-methyl-aniline | yield of 30.1% | OC(CNC1=C(C=CC=C1C)Cl)C | C10H14ClNO
